US09056874B2
(±)-2-(1-(5,7-Dimethyl-1-tosyl-1H-indol-4-yl)-1-(methylamino)ethyl)-1H-benzo[d]imidazole-5-carbonitrile
A solution of (±)-tert-butyl 1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)ethyl(methyl)carbamate and (±)-tert-butyl 1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)ethyl(methyl)carbamate (95 mg, 0.130 mmol) in MeOH (326 μL) was mixed with 4 M HCl in dioxane (0.65 mL, 2.61 mmol) and the reaction stirred at 50° C. for 0.5 h. The reaction mixture was cooled to rt and diluted with 2 M aq. Na2CO3, brine and EtOAc. The products were extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, filtered, and concentrated. The residue was purified by flash column chromatography on silica gel (heptane/EtOAc=100:0 to 40:60) to give the title compound. MS (ESI) m/z 496.34(M−1).

reactant | (±)-tert-butyl 1-(5-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)ethyl(methyl)carbamate | C(#N)C1=CC2=C(N(C(=N2)C(C)(C2=C3C=CN(C3=C(C=C2C)C)S(=O)(=O)C2=CC=C(C)C=C2)N(C(OC(C)(C)C)=O)C)COCC[Si](C)(C)C)C=C1 | C39H49N5O5SSi
reactant | (±)-tert-butyl 1-(6-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazol-2-yl)-1-(5,7-dimethyl-1-tosyl-1H-indol-4-yl)ethyl(methyl)carbamate | 0.130 mmol, 95 mg | C(#N)C=1C=CC2=C(N(C(=N2)C(C)(C2=C3C=CN(C3=C(C=C2C)C)S(=O)(=O)C2=CC=C(C)C=C2)N(C(OC(C)(C)C)=O)C)COCC[Si](C)(C)C)C1 | C39H49N5O5SSi
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 2.61 mmol, 0.65 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 326 μL | CO | CH4O
solvent | Na2CO3 | 2 M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | brine | [Cl-].[Na+].O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-2-(1-(5,7-Dimethyl-1-tosyl-1H-indol-4-yl)-1-(methylamino)ethyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C(C)(NC)C1=NC2=C(N1)C=CC(=C2)C#N | C28H27N5O2S
